US08912169B2
Step 1: [4-(Benzyloxycarbonylamino-methyl)-cyclohexyl]-acetic acid
Benzyl chloroformate (1.5 mL, 10.5 mmol) and sodium hydroxide (12.5 mL, 1N, 12.5 mmol) were added to a solution of trans-(4-aminomethylcyclohexyl)acetic acid (2.08 g, 10.0 mmol) in THF (32 mL) and H2O (16 mL). The reaction was stirred at RT for 17 hr. The reaction was quenched with 1N HCl and extracted with EtOAc (2×). The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated to yield 1.91 g (62%) of product which was carried to the next step without purification. ESI-MS m/z 306 (MH)+.

reactant | Benzyl chloroformate | 10.5 mmol, 1.5 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | sodium hydroxide | 12.5 mmol, 1N, 12.5 mL | [OH-].[Na+]
reactant | trans-(4-aminomethylcyclohexyl)acetic acid | 10.0 mmol, 2.08 g | NC[C@@H]1CC[C@H](CC1)CC(=O)O | C9H17NO2
solvent | THF | 32 mL | C1CCOC1 | C4H8O
solvent | H2O | 16 mL | O | H2O
product | [4-(Benzyloxycarbonylamino-methyl)-cyclohexyl]-acetic acid | 1.91 g, 62% | C(C1=CC=CC=C1)OC(=O)NCC1CCC(CC1)CC(=O)O | C17H23NO4
